US08791119B2
To a solution of 47.3 g (130 mmol) of tert-butyl{2-[2-chloro-4-cyano-3-(3-fluorophenyl)-1H-pyrrol-1-yl]ethyl}-carbamate in 85 ml of ethanol are added slowly 488 ml (1465 mmol) of aqueous 3N hydrochloric acid solution. Setting to a solid is rapidly observed, and the medium then becomes clear. After 45 minutes, 5.56 g (48.1 mmol) of paraformaldehyde are added and heating is continued at 70° C. for 2 hours 30 minutes. After cooling, the reaction medium is poured slowly into ice-cold aqueous 4N sodium hydroxide solution. The product is extracted with dichloromethane, the organic phase is dried over sodium sulfate and the solvent is evaporated off under reduced pressure to give a brown oil, which is chromatographed on a column of 300 g of silica gel, eluting with a mixture of 1 to 2% methanol in dichloromethane, to give 21.0 g of 6-chloro-7-(3-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carbonitrile in the form of a beige-coloured powder after triturating in 150 ml of diisopropyl ether, at reflux, chilling, filtering off and drying.

reactant | tert-butyl{2-[2-chloro-4-cyano-3-(3-fluorophenyl)-1H-pyrrol-1-yl]ethyl}-carbamate | 130 mmol, 47.3 g | C(C)(C)(C)OC(NCCN1C(=C(C(=C1)C#N)C1=CC(=CC=C1)F)Cl)=O | C18H19ClFN3O2
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | paraformaldehyde | 48.1 mmol, 5.56 g | C=O | CH2O
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | ethanol | 85 ml | C(C)O | C2H6O
product | 6-chloro-7-(3-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carbonitrile | 21.0 g | ClC1=C(C(=C2N1CCNC2)C#N)C2=CC(=CC=C2)F | C14H11ClFN3
